US04404222
In 425 ml of ethanol, 64 g of 3-benzyloxyphenacyl bromide and 212 ml of iso-propylamine are stirred at 5° C. under N2 atmosphere, and the temperature is allowed to rise to 12° C. After 0.75 minutes, the clear solution is poured into 2 liters of crushed ice containing 500 ml of concentrated HCl and 1.5 liters of H2O. The mixture is stirred for 20 minutes, filtered and the solid is washed with water to afford 3'-(benzyloxy)-2-isopropylamino-acetophenone hydrochloride, mp 213°-215° C. dec. A 5 g.-sample of this material is stirred in 50 ml of methanol, and the mixture is cooled in ice and neutralized with 10% NaOH until a clear solution is obtained. To this solution, 2 g of NaBH4 is added and after 0.75 hours of stirring, the mixture is evaporated in vacuo, and the resulting solid is collected and washed with H2O. This gives, after drying, 4.4 g of m-(benzyloxy)-β-[(isopropylamino)methyl]benzyl alcohol, mp 83°-85° C.

reactant | 3-benzyloxyphenacyl bromide | 64 g | C(C1=CC=CC=C1)OC=1C=C(C(CBr)=O)C=CC1 | C15H13BrO2
reactant | iso-propylamine | 212 ml | C(C)(C)N | C3H9N
reactant | HCl | Cl | ClH
reactant | H2O | 1.5 liters | O | H2O
solvent | ethanol | 425 ml | C(C)O | C2H6O
product | 3'-(benzyloxy)-2-isopropylamino-acetophenone hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(CNC(C)C)=O | InChI=1S/C18H21NO2.ClH/c1-14(2)19-12-18(20)16-9-6-10-17(11-16)21-13-15-7-4-3-5-8-15;/h3-11,14,19H,12-13H2,1-2H3;1H
